US04386081
(p) Dimethyl cyclohexoxycarbonylphosphonate
From 24.8 g (0.20 mole) of trimethylphosphite and 32.1 g (0.20 mole) of cyclohexylchloroformate. (Y. Iwakura and A. Nabeya, J. Org. Chem. 25 (1960) 1118; M. E. Fourneau et al. Chem. Abstr. 16 (1922) 240; J. H. Saunders et al. J. Am. Chem. Soc. 73 (1951) 3797). (100° C., 2 hours). Yield 30 g (64%). Bp1.4-1.8 148°-151° C. nD21 1.4543.

reactant | trimethylphosphite | 0.20 mole, 24.8 g | COP(OC)OC | C3H9O3P
reactant | cyclohexylchloroformate | 0.20 mole, 32.1 g | C1(CCCCC1)OC(=O)Cl | C7H11ClO2
product | Dimethyl cyclohexoxycarbonylphosphonate | C1(CCCCC1)OC(=O)P(OC)(OC)=O | C9H17O5P
